US06955890B2
As noted above, in bacteria and fungi, GTP cyclohydrolase II (EC 3.5.4.25) catalyzes the reaction of GTP with a purine to produce 2,5-Diamino-6-hydroxy-4-(5′phosphoribosylamino)-pyrimidine; diaminohydroxyphosphoribosylaminopyrimidine deaminase (EC 3.5.4.26) catalyzes the reaction of 2,5-Diamino-6-hydroxy-4-(5′phosphoribosylamino)-pyrimidine to produce 5-amino-6-(5-phosphoribosylamino)uracil; 5-amino-6-(5-phosphoribosylamino)uracil reductase (EC 1.1.1.193) catalyzes the reaction of 5-amino-6-(5-phosphoribosylamino)uracil to produce 5-Amino-6-(5′phosphoribitylamino)uracil; lumazine synthase catalyzes the reaction of 5-Amino-6-(5′phosphoribitylamino)uracil to produce 6,7-Dimethyl-8-ribityl lumazine; and riboflavin synthase (EC 2.5.1.9) catalyzes the reaction of 6,7-Dimethyl-8-ribityl lumazine to produce riboflavin

reactant | GTP | P(O)(=O)(OP(=O)(O)OP(=O)(O)O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(=O)NC(N)=NC12)O)O | C10H16N5O14P3
reactant | purine | N1=CN=C2N=CNC2=C1 | C5H4N4
product | 2,5-Diamino-6-hydroxy-4-(5′phosphoribosylamino)-pyrimidine | NC1=NC(=C(C(=N1)NC1[C@H](O)[C@H](O)[C@H](O1)COP(=O)(O)O)N)O | C9H16N5O8P
